US07495110B2
Stage 2: methyl 2-[(3-bromobenzyl)thio]-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-1H-benzimidazole-5-carboxylate
Triethylamine (0.82 ml, 1.6 eq) and 3-bromobenzylbromide (0.97 g, 1 eq) are added successively to a solution of methyl 1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-2-thioxo-2,3-dihydro-1H-benzimidazole-5-carboxylate (1.5 g) in tetrahydrofuran (30 ml). The mixture is stirred for 15 hours at approximately 20° C. then concentrated under reduced pressure at 40° C. The residue obtained is diluted in ethyl acetate and water. After decanting and extracting, the organic phases are washed with salt water, dried over sodium sulphate and concentrated under reduced pressure at 40° C. Purification by flash chromatography on silica gel (eluent: dichloromethane/methanol 95/5 to 90/10) produces the expected compound in the form of a colourless oil (1.5 g; 70% yield).

reactant | Triethylamine | 0.82 ml, 1.6 eq | C(C)N(CC)CC | C6H15N
reactant | 3-bromobenzylbromide | 0.97 g, 1 eq | BrC=1C=C(CBr)C=CC1 | C7H6Br2
reactant | methyl 1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-2-thioxo-2,3-dihydro-1H-benzimidazole-5-carboxylate | 1.5 g | CN(CCCN1C(NC2=C1C=CC(=C2)C(=O)OC)=S)CCC2=NC=CC=C2 | C20H24N4O2S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | methyl 2-[(3-bromobenzyl)thio]-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-1H-benzimidazole-5-carboxylate | 70% yield | BrC=1C=C(CSC2=NC3=C(N2CCCN(CCC2=NC=CC=C2)C)C=CC(=C3)C(=O)OC)C=CC1 | C27H29BrN4O2S
